US07989457B2
The cis-4-{6,6,6-Trifluoro-3-[6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-hex-1-enyl}-benzoic acid (214 mg, 0.45 mmol), chloro-dimethoxy-triazine (CDMT) (81 mg, 0.46 mmol), and 4-methylmorpholine (50 uL, 0.47 mmol) are combined in anhydrous DCM under nitrogen. The reaction is allowed to stir under nitrogen at room temperature overnight. Beta-alanine hydrochloride (68 mg, 0.49 mmol) and 4-methylmorpholine (100 uL, 0.94 mmol) is then added to the reaction mixture, and allowed to stir at room temperature. Some water (<10% volume) is added to help solubility. The reaction is monitored by HPLC, and upon complete consumption of the acid, the reaction is diluted with DCM and water and rinsed with 1N HCl. The organic layer is washed with water and brine, dried over anhydrous sodium sulfate, then filtered and concentrated. The cis-3-(4-{6,6,6-trifluoro-3-[6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-hex-1-enyl}-benzoylamino)-propionic acid methyl ester (197 mg, 0.35 mmol) is isolated after column chromatography, 78% yield.

reactant | cis-4-{6,6,6-Trifluoro-3-[6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-hex-1-enyl}-benzoic acid | 0.45 mmol, 214 mg | FC(CCC(\C=C/C1=CC=C(C(=O)O)C=C1)C=1C=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)(F)F | C25H19F6NO2
reactant | chloro-dimethoxy-triazine | 0.46 mmol, 81 mg | ClC=1C(=NN=NC1OC)OC | C5H6ClN3O2
reactant | 4-methylmorpholine | 0.47 mmol, 50 uL | CN1CCOCC1 | C5H11NO
reactant | Beta-alanine hydrochloride | 0.49 mmol, 68 mg | Cl.NCCC(=O)O
reactant | 4-methylmorpholine | 0.94 mmol, 100 uL | CN1CCOCC1 | C5H11NO
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | cis-3-(4-{6,6,6-trifluoro-3-[6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-hex-1-enyl}-benzoylamino)-propionic acid methyl ester | 0.35 mmol, 197 mg, 78% yield | COC(CCNC(C1=CC=C(C=C1)\C=C/C(CCC(F)(F)F)C=1C=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C29H26F6N2O3
